US09446034B2
To a 25 mL round bottom was added 4-(ethyloxy)-3-oxobutanenitrile (550 mg, 4.33 mmol), isopropyl hydrazine hydrochloride (478 mg, 4.33 mmol), and HCl (2.163 mL, 4.33 mmol) in Ethanol (10 mL). The reaction mixture was stirred at the room temperature overnight. The reaction mixture was then evaporated, and partitioned between 20 mL of ethyl acetate and 20 mL of 1 M Na2CO3. The organic layer was washed with brine, filtered and evaporated. 3-[(Ethyloxy)methyl]-1-(1-methylethyl)-1H-pyrazol-5-amine (520 mg, 2.84 mmol, 65.6% yield) was isolated as yellow oil. The product was used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) ppm 1.09 (t, J=7.07 Hz, 3 H) 1.26 (d, J=6.57 Hz, 6 H) 3.40 (q, J=6.91 Hz, 2 H) 4.16 (s, 2 H) 4.32 (quin, J=6.57 Hz, 1 H) 5.06 (s, 2 H) 5.22 (s, 1 H)

reactant | 4-(ethyloxy)-3-oxobutanenitrile | 4.33 mmol, 550 mg | C(C)OCC(CC#N)=O | C6H9NO2
reactant | isopropyl hydrazine hydrochloride | 4.33 mmol, 478 mg | Cl.C(C)(C)NN
reactant | HCl | 4.33 mmol, 2.163 mL | Cl | ClH
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | 3-[(Ethyloxy)methyl]-1-(1-methylethyl)-1H-pyrazol-5-amine | 2.84 mmol, 520 mg, 65.6% yield | C(C)OCC1=NN(C(=C1)N)C(C)C | C9H17N3O
